US08133886B2
Step 3.5: 6-(3-Ethoxycarbonyl-2-oxo-propyl)-naphthalene-1-carboxylic acid methyl ester
A solution of 8.56 g (64.8 mMol) of malonic acid monoethyl ester and 112 mg (0.72 mMol) 2,2′-bipyridine in 200 ml THF is cooled to −78° C. Then 60 ml of a 1.6 M solution of nbutyllithium in THF are added dropwise (color changes from yellow to red!). Warming the mixture up to −10° C., renders the mixture turn to yellow again. Addition of another 10 ml of a 1.6 M solution of nbutyllithium in THF results in a persistent red color of the mixture. After cooling to −78° C., a suspension of 36 mMol 6-chlorocarbonylmethyl-naphthalene-1-carboxylic acid methyl ester in 250 ml THF is added during 40 min and then stirring is continued for 1 h. The dark mixture is poured into 200 ml of 1 N HCl and 400 ml ether, the aq. phase separated off and extracted with 2 portions of EtOAc. The organic layers are washed with brine, dried (Na2SO4) and concentrated to the title compound which can be used in the Step 3.6 as such. Pure product can be obtained by chromatography (Combi Flash; hexane/EtOAc 85:15): MS: [M−1]=313; HPLC: tRet=15.5.

reactant | malonic acid monoethyl ester | 64.8 mMol, 8.56 g | C(C)OC(CC(=O)O)=O | C5H8O4
reactant | 2,2′-bipyridine | 0.72 mMol, 112 mg | N1=C(C=CC=C1)C1=NC=CC=C1 | C10H8N2
reactant | 6-chlorocarbonylmethyl-naphthalene-1-carboxylic acid methyl ester | 36 mMol | COC(=O)C1=CC=CC2=CC(=CC=C12)CC(=O)Cl | C14H11ClO3
reactant | HCl | 1 N, 200 ml | Cl | ClH
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | ether | 400 ml | CCOCC | C4H10O
product | 6-(3-Ethoxycarbonyl-2-oxo-propyl)-naphthalene-1-carboxylic acid methyl ester | COC(=O)C1=CC=CC2=CC(=CC=C12)CC(CC(=O)OCC)=O | C18H18O5
